US05455253
2-Methyl-4-(4-methylphenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone.
A mixture of 4-(4-methyphenyl)-3-butene-2-one (5.0 g), 1,3-cyclohexanedione (3.66 g), ammonium acetate (3.61 g) and 100 mL of ethanol were heated at reflux overnight and then cooled to room temperature. The solvent was evaporated and the residue was partitioned between water and ethyl acetate. The organic layer was dried, filtered, and evaporated to obtain an amber oil. Chromatography, with hexane:ethyl acetate (1:1) as the eluent, and trituration from ether provided the title compound as an off-white solid (2.0 g); mp 196°-198° C.; NMR: 1.73 (s,3, CH3), 1.87-1.98 (m,2, CH2), 2.14-2.16 (m,2, CH2), 2.22 (s,3, CH3), 2.43-2.49 (m,2, CH2), 4.34 (d,1, CH), 4.57 (d,1, CH), 7.01 (s,4, Ar), 8.40 (s,1, NH); (CI, CH4) MS: m/z=254(M+1). Analysis for C17H19NO: Calculated C, 80.60; H, 7.56; N, 5.53; Found: C, 80.24; H, 7.68; N, 5.36.

reactant | 4-(4-methyphenyl)-3-butene-2-one | 5.0 g | CC1=CC=C(C=C1)C=CC(C)=O | C11H12O
reactant | 1,3-cyclohexanedione | 3.66 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | ammonium acetate | 3.61 g | C(C)(=O)[O-].[NH4+]
reactant | ethanol | 100 mL | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-Methyl-4-(4-methylphenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone | 2.0 g | CC=1NC=2CCCC(C2C(C1)C1=CC=C(C=C1)C)=O | C17H19NO
